US04517202
A stirred solution of (E)-2-(3-tert-butyldimethylsilyloxy-4-phenoxybut-1-enyl)bicyclo[3,3,0]octan-6-one (75 mg), prepared as described in Reference Example 46 and in the form of (±)-(E)-2β-(3β-tert-butyldimethylsilyloxy-4-phenoxybut-1-enyl)bicyclo[3,3,0]octan-6-one, in dry tetrahydrofuran (2.55 ml) was cooled to -70° C. under an atmosphere of argon and treated with a solution of lithium bis(trimethylsilyl)amide in tetrahydrofuran (1M; 0.204 ml), and the mixture was stirred at -70° C. for 10 minutes. The mixture was then treated with 4-methoxycarbonylbutanal (44 mg) and stirred for a further period of 150 minutes at -70° C. The mixture was then treated with a solution of glacial acetic acid (0.019 ml) in diethyl ether (0.17 ml) and allowed to warm to the ambient temperature. The mixture was treated with water (25 ml) and extracted with ethyl acetate. The extract was washed with saturated aqueous sodium bicarbonate solution, and with saturated aqueous sodium chloride solution, dried over anhydrous sodium sulphate, and concentrated under reduced pressure. The residual oil was subjected to medium pressure, short column chromatography on silica gel, eluting with a mixture of ethyl acetate and hexane (1:2 v/v), to give 6-[(E)-3-tert-butyldimethylsilyloxy-4-phenoxybut-1-enyl]-3-(1-hydroxy-4-methoxycarbonylbut-1-yl)bicyclo[3,3,0]octan-2-one (47 mg), in the form of (±)-6β-[(E)-3β-tert-butyldimethylsilyloxy-4-phenoxybut-1-enyl]-3-(1-hydroxy-4-methoxycarbonylbut-1-yl)bicyclo[3,3,0]octan-2-one.

reactant | (E)-2-(3-tert-butyldimethylsilyloxy-4-phenoxybut-1-enyl)bicyclo[3,3,0]octan-6-one | 75 mg | [Si](C)(C)(C(C)(C)C)OC(/C=C/C1C2CCC(C2CC1)=O)COC1=CC=CC=C1 | C24H36O3Si
reactant | lithium bis(trimethylsilyl)amide | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | 4-methoxycarbonylbutanal | 44 mg | COC(=O)CCCC=O | C6H10O3
reactant | acetic acid | 0.019 ml | C(C)(=O)O | C2H4O2
solvent | tetrahydrofuran | 2.55 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1M, 0.204 ml | O1CCCC1 | C4H8O
solvent | diethyl ether | 0.17 ml | C(C)OCC | C4H10O
solvent | water | 25 ml | O | H2O
product | 6-[(E)-3-tert-butyldimethylsilyloxy-4-phenoxybut-1-enyl]-3-(1-hydroxy-4-methoxycarbonylbut-1-yl)bicyclo[3,3,0]octan-2-one | 47 mg | [Si](C)(C)(C(C)(C)C)OC(/C=C/C1C2CC(C(C2CC1)=O)C(CCCC(=O)OC)O)COC1=CC=CC=C1 | C30H46O6Si
